US04154834
An intimate mixture of 5-(4-pyridylmethyl)-2-methylthio-4-pyrimidone (5.9 g) and 2-(5-methyl-4-imidazolylmethylthio)ethylamine (4.3 g) was heated at 145°-150° for 5 hours and allowed to cool to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(4-pyridylmethyl)-4-pyrimidone. This residue was triturated with water, and treated with ethanolic hydrogen chloride to give the title compound m.p. 228°-233°.

reactant | 5-(4-pyridylmethyl)-2-methylthio-4-pyrimidone | 5.9 g | N1=CC=C(C=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 4.3 g | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(4-pyridylmethyl)-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C17H20N6OS
